US08957203B2
To a solution of 1-chloroisoquinolin-4-ol (1.0 g, 5.5 mmole) in acetonitrile (10 mL) was added K2CO3 (2.3 g, 16.7 mmole) followed by ethyl iodide (0.87 mL, 11.0 mmole) at room temperature. The reaction mixture was stirred at room temperature for overnight. Solvent was evaporated under reduced pressure and the residue was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated under reduced. The resulting residue was purified by silica gel chromatography to afford 1-chloro-4-ethoxyisoquinoline (700 mg, 62%) as an off-white solid. 1H NMR (400 MHz, CD3OD): δ ppm 8.26-8.24 (m, 2H), 7.79 (s, 1H), 7.76-7.26 (m, 2H), 4.29-4.24 (q, J=6.8 Hz, 2H), 1.58-1.1.54 (t, J=6.8 Hz, 3H); MS: MS m/z 207.7 (M++1).

reactant | 1-chloroisoquinolin-4-ol | 5.5 mmole, 1.0 g | ClC1=NC=C(C2=CC=CC=C12)O | C9H6ClNO
reactant | K2CO3 | 16.7 mmole, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 11.0 mmole, 0.87 mL | C(C)I | C2H5I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-chloro-4-ethoxyisoquinoline | 700 mg, 62% | ClC1=NC=C(C2=CC=CC=C12)OCC | C11H10ClNO
